US08012976B2
A mixture of (E)-4-(4-(diethoxymethyl)benzylideneamino)isobenzofuran-1(3H)-one (678 mg, 2 mmol), 1-methyl-1H-imidazole-2-carbaldehyde (242 mg, 2.2 mmol), sodium ethanolate (544 mg, 8.0 mmol), and ethyl propionate (50 ml) was stirred at room temperature for 3 hr. Then the resulting mixture was evaporated under reduced pressure and extracted with ethyl acetate (100 mL×4) and concentrated. The crude product was purified by column chromatography (silica gel, petroleum ether:ethyl acetate=20:1 to 1.5:1) to give ethyl 2-(4-(diethoxymethyl)phenyl)-3-(1-methyl-1H-imidazol-2-yl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate as solid (50 mg, yield 5%). LC-MS (ESI) m/z: 478 (M+1)+.

reactant | (E)-4-(4-(diethoxymethyl)benzylideneamino)isobenzofuran-1(3H)-one | 2 mmol, 678 mg | C(C)OC(C1=CC=C(\C=N\C2=C3COC(C3=CC=C2)=O)C=C1)OCC | C20H21NO4
reactant | 1-methyl-1H-imidazole-2-carbaldehyde | 2.2 mmol, 242 mg | CN1C(=NC=C1)C=O | C5H6N2O
reactant | sodium ethanolate | 8.0 mmol, 544 mg | C(C)[O-].[Na+]
reactant | ethyl propionate | 50 ml | C(CC)(=O)OCC | C5H10O2
product | ethyl 2-(4-(diethoxymethyl)phenyl)-3-(1-methyl-1H-imidazol-2-yl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate | 50 mg, yield 5% | C(C)OC(C1=CC=C(C=C1)C1NC=2C=CC=C(C2C(C1C=1N(C=CN1)C)=O)C(=O)OCC)OCC | C27H31N3O5
